US06353006B1
Methyl (R)-3-(tert-butoxycarbonylamino)-4-methylpentanoate (1.62 g, 6.6 mmol) was treated with lithium borohydride in a manner analogous to Method B8a, Step 2 to afford (R)-3-(tert-butoxycarbonylamino)-4-methylpentanol (93%).

reactant | Methyl (R)-3-(tert-butoxycarbonylamino)-4-methylpentanoate | 6.6 mmol, 1.62 g | C(C)(C)(C)OC(=O)N[C@H](CC(=O)OC)C(C)C | C12H23NO4
reactant | lithium borohydride | [BH4-].[Li+]
product | (R)-3-(tert-butoxycarbonylamino)-4-methylpentanol | 93% | C(C)(C)(C)OC(=O)N[C@H](CCO)C(C)C | C11H23NO3
